US04209512
A mixture of 10 g of 3-hydroxy-5-methylisoxazole and 56 g of 1,2-dibromoethane was refluxed for 6 hours. After cooling, the reaction mixture was subjected to column chromatography through silica gel eluted with a 3:1 by volume mixture of benzene and acetone. A yellow liquid separated, and this was crystallized with n-hexane, affording 2-(2-bromoethyl)-5-methyl-3-oxo-4-isoxazoline, melting at 39°-40° C.

reactant | 3-hydroxy-5-methylisoxazole | 10 g | OC1=NOC(=C1)C | C4H5NO2
reactant | 1,2-dibromoethane | 56 g | BrCCBr | C2H4Br2
product | 2-(2-bromoethyl)-5-methyl-3-oxo-4-isoxazoline | BrCCN1OC(=CC1=O)C | C6H8BrNO2
